* NGSPICE file created from ip_amplifier_parax.ext - technology: gf180mcuD

.subckt ip_amplifier_parax VDD OUTP INP INN vsubs
X0 VDD.t10 a_1612_368# OUTP VDD.t11 pfet_03v3 ad=5.28p pd=24.88u as=6.015p ps=13.1u w=12u l=0.5u
X1 a_1424_2016# a_1080_400# a_1080_400# vsubs.t2 nfet_03v3 ad=3.03p pd=7.2u as=3.03p ps=7.2u w=6u l=0.5u
X2 OUTP w_13700_140# cap_pmos_03v3 c_width=13.5u c_length=18u
X3 a_1424_2016# a_1080_400# vsubs.t6 vsubs.t7 nfet_03v3 ad=2.64p pd=12.88u as=3.03p ps=7.2u w=6u l=2u
X4 a_240_2922# a_520_400# vsubs.t15 ppolyf_u_1k r_width=1u r_length=12u
X5 OUTP a_6130_2884# vsubs.t11 vsubs.t9 nfet_03v3 ad=6.03p pd=13.2u as=6.03p ps=13.2u w=12u l=0.5u
X6 a_800_2922# a_1080_400# vsubs.t16 ppolyf_u_1k r_width=1u r_length=12u
X7 OUTP a_6130_2884# vsubs.t10 vsubs.t9 nfet_03v3 ad=6.03p pd=13.2u as=5.28p ps=24.88u w=12u l=0.5u
X8 vsubs.t6 a_1080_400# a_1424_2016# vsubs.t5 nfet_03v3 ad=3.03p pd=7.2u as=3.03p ps=7.2u w=6u l=2u
X9 a_18960_2942# a_18680_420# w_13700_140# ppolyf_u_1k r_width=1u r_length=12u
X10 a_19520_2942# a_19240_420# w_13700_140# ppolyf_u_1k r_width=1u r_length=12u
X11 vsubs.t11 a_6130_2884# OUTP vsubs.t9 nfet_03v3 ad=5.28p pd=24.88u as=6.03p ps=13.2u w=12u l=0.5u
X12 a_18400_2942# a_18120_420# w_13700_140# ppolyf_u_1k r_width=1u r_length=12u
X13 vsubs.t11 a_6130_2884# OUTP vsubs.t9 nfet_03v3 ad=6.03p pd=13.2u as=6.03p ps=13.2u w=12u l=0.5u
X14 a_17840_2942# VDD.t1 w_13700_140# ppolyf_u_1k r_width=1u r_length=12u
X15 a_6130_2884# w_13700_140# cap_pmos_03v3 c_width=13.5u c_length=18u
X16 a_4374_1878# a_1612_368# a_4186_1878# VDD.t2 pfet_03v3 ad=3.03p pd=7.2u as=2.64p ps=12.88u w=6u l=0.5u
X17 a_1612_368# a_1612_368# a_4186_430# VDD.t2 pfet_03v3 ad=3.03p pd=7.2u as=2.64p ps=12.88u w=6u l=0.5u
X18 vsubs.t10 a_6130_536# a_6130_536# vsubs.t18 nfet_03v3 ad=2.64p pd=12.88u as=2.64p ps=12.88u w=6u l=5u
X19 a_1612_368# a_1080_400# a_1424_368# vsubs.t3 nfet_03v3 ad=3.03p pd=7.2u as=3.03p ps=7.2u w=6u l=0.5u
X20 a_4186_430# a_1612_368# a_1612_368# VDD.t5 pfet_03v3 ad=3.03p pd=7.2u as=3.03p ps=7.2u w=6u l=0.5u
X21 a_240_2922# VDD vsubs.t0 ppolyf_u_1k r_width=1u r_length=12u
X22 a_1612_368# a_1080_400# a_1424_368# vsubs.t1 nfet_03v3 ad=3.03p pd=7.2u as=2.64p ps=12.88u w=6u l=0.5u
X23 a_4186_1878# a_1612_368# a_4374_1878# VDD.t5 pfet_03v3 ad=3.03p pd=7.2u as=3.03p ps=7.2u w=6u l=0.5u
X24 a_4186_430# a_1612_368# a_1612_368# VDD.t3 pfet_03v3 ad=3.03p pd=7.2u as=3.03p ps=7.2u w=6u l=0.5u
X25 vsubs.t10 a_6130_536# a_6130_2884# vsubs.t17 nfet_03v3 ad=2.64p pd=12.88u as=2.64p ps=12.88u w=6u l=5u
X26 a_1424_368# a_1080_400# a_1612_368# vsubs.t4 nfet_03v3 ad=3.03p pd=7.2u as=3.03p ps=7.2u w=6u l=0.5u
X27 VDD.t8 a_1612_368# a_4186_430# VDD.t6 pfet_03v3 ad=2.64p pd=12.88u as=3.03p ps=7.2u w=6u l=2u
X28 a_4374_1878# INN a_6130_536# VDD.t0 pfet_03v3 ad=7.92p pd=36.88u as=7.92p ps=36.88u w=18u l=5u
X29 a_18960_2942# a_19240_420# w_13700_140# ppolyf_u_1k r_width=1u r_length=12u
X30 a_1424_368# a_1080_400# a_1612_368# vsubs.t2 nfet_03v3 ad=3.03p pd=7.2u as=3.03p ps=7.2u w=6u l=0.5u
X31 a_4186_1878# a_1612_368# a_4374_1878# VDD.t3 pfet_03v3 ad=3.03p pd=7.2u as=3.03p ps=7.2u w=6u l=0.5u
X32 a_1612_368# a_1612_368# a_4186_430# VDD.t4 pfet_03v3 ad=3.03p pd=7.2u as=3.03p ps=7.2u w=6u l=0.5u
X33 a_18400_2942# a_18680_420# w_13700_140# ppolyf_u_1k r_width=1u r_length=12u
X34 a_1080_400# a_1080_400# a_1424_2016# vsubs.t3 nfet_03v3 ad=3.03p pd=7.2u as=3.03p ps=7.2u w=6u l=0.5u
X35 vsubs.t8 a_1080_400# a_1424_368# vsubs.t5 nfet_03v3 ad=2.64p pd=12.88u as=3.03p ps=7.2u w=6u l=2u
X36 a_17840_2942# a_18120_420# w_13700_140# ppolyf_u_1k r_width=1u r_length=12u
X37 a_800_2922# a_520_400# vsubs.t14 ppolyf_u_1k r_width=1u r_length=12u
X38 a_1080_400# a_1080_400# a_1424_2016# vsubs.t1 nfet_03v3 ad=3.03p pd=7.2u as=2.64p ps=12.88u w=6u l=0.5u
X39 VDD.t7 a_1612_368# a_4186_1878# VDD.t6 pfet_03v3 ad=2.64p pd=12.88u as=3.03p ps=7.2u w=6u l=2u
X40 a_19520_2942# w_13700_140# w_13700_140# ppolyf_u_1k r_width=1u r_length=12u
X41 a_4374_1878# a_1612_368# a_4186_1878# VDD.t4 pfet_03v3 ad=3.03p pd=7.2u as=3.03p ps=7.2u w=6u l=0.5u
X42 a_1424_2016# a_1080_400# a_1080_400# vsubs.t4 nfet_03v3 ad=3.03p pd=7.2u as=3.03p ps=7.2u w=6u l=0.5u
X43 OUTP a_1612_368# VDD.t10 VDD.t9 pfet_03v3 ad=6.015p pd=13.1u as=5.28p ps=24.88u w=12u l=0.5u
X44 a_6130_2884# INP a_4374_1878# VDD.t0 pfet_03v3 ad=8.294p pd=37.56u as=7.92p ps=36.88u w=18u l=5u
R0 VDD.t0 VDD.t9 721.385
R1 VDD.t6 VDD.t1 542.768
R2 VDD.n4 VDD.n3 0.205961
R3 VDD.n4 VDD.t1 307.44
R4 VDD.n0 VDD.n2 151.849
R5 VDD.n2 VDD.t1 3.10736
R6 VDD.n1 VDD.t0 160.377
R7 VDD.t5 VDD.t6 141.51
R8 VDD.n0 VDD.t2 105.242
R9 VDD.t11 VDD.n4 102.727
R10 VDD.t2 VDD.t3 94.3401
R11 VDD.t3 VDD.t4 94.3401
R12 VDD.t4 VDD.t5 94.3401
R13 VDD.t9 VDD.t11 94.3401
R14 VDD.n3 VDD.n1 7.2039
R15 VDD.n0 VDD.t7 5.3105
R16 VDD.n2 VDD.n1 3.12014
R17 VDD.t8 VDD.n0 5.1005
R18 VDD.t1 VDD.t10 3.8705
R19 VDD.n3 VDD.t10 3.0059
R20 VDD.n1 VDD.t7 2.27796
R21 VDD.t1 VDD.t8 2.0705
R22 VDD VDD.t1 1.31028
R23 vsubs.n10 vsubs.n0 282286
R24 vsubs.n7 vsubs.n0 281357
R25 vsubs.n9 vsubs.n6 144219
R26 vsubs.n8 vsubs.n6 144219
R27 vsubs.n9 vsubs.t17 1136.3
R28 vsubs.t18 vsubs.n8 1068.89
R29 vsubs.t9 vsubs.t18 962.963
R30 vsubs.n4 vsubs.n3 6.99334
R31 vsubs.n5 vsubs.n3 962.5
R32 vsubs.n1 vsubs.n2 1.47068
R33 vsubs.t17 vsubs.t9 852.222
R34 vsubs.t7 vsubs.t5 557.144
R35 vsubs.t5 vsubs.t4 417.858
R36 vsubs.n6 vsubs.t7 360.286
R37 vsubs.t1 vsubs.t16 354.714
R38 vsubs.t2 vsubs.t1 278.572
R39 vsubs.t3 vsubs.t2 278.572
R40 vsubs.t4 vsubs.t3 278.572
R41 vsubs.t0 vsubs.n3 269.44
R42 vsubs.t15 vsubs.t0 260
R43 vsubs.t14 vsubs.t15 260
R44 vsubs.t16 vsubs.t14 260
R45 vsubs.n7 vsubs.n1 24.095
R46 vsubs.n5 vsubs.n10 24.095
R47 vsubs.n0 vsubs.t10 19.9163
R48 vsubs.n2 vsubs.n0 18.2663
R49 vsubs.t6 vsubs.n5 13.3355
R50 vsubs.n1 vsubs.n4 12.9133
R51 vsubs.n8 vsubs.n7 12.0375
R52 vsubs.n10 vsubs.n9 12.0375
R53 vsubs.t8 vsubs.n4 0.096786
R54 vsubs vsubs.t6 4.6655
R55 vsubs vsubs.n3 2.65844
R56 vsubs.n2 vsubs.t11 0.0290295
R57 vsubs.n1 vsubs.t10 1.44204
R58 vsubs.n5 vsubs.t10 1.13421
C0 INN a_6130_536# 1.04935f
C1 a_1424_2016# a_240_2922# 0.0036f
C2 a_18400_2942# a_17840_2942# 0.0444f
C3 a_19240_420# a_18680_420# 0.0444f
C4 a_18120_420# a_18680_420# 0.0444f
C5 a_4186_1878# a_4186_430# 0.01085f
C6 w_13700_140# a_18960_2942# 0.43216f
C7 a_4186_430# a_1612_368# 2.60094f
C8 a_1080_400# a_1424_368# 1.14976f
C9 a_1424_2016# a_1424_368# 0.00526f
C10 VDD a_4374_1878# 2.17436f
C11 a_6130_536# a_1612_368# 0.06783f
C12 a_6130_2884# a_6130_536# 0.57657f
C13 a_1080_400# a_800_2922# 0.00322f
C14 OUTP a_6130_536# 1.74613f
C15 VDD w_13700_140# 3.07467f
C16 a_1424_2016# a_800_2922# 0.04851f
C17 INN a_4374_1878# 0.88702f
C18 VDD INN 1.92729f
C19 a_1424_2016# a_1080_400# 3.68312f
C20 a_18960_2942# a_6130_2884# 0.03083f
C21 VDD a_520_400# 0.09503f
C22 OUTP a_18960_2942# 0
C23 a_1424_368# a_4186_430# 0.00137f
C24 a_4374_1878# a_4186_1878# 1.9199f
C25 a_6130_2884# a_4374_1878# 0.0981f
C26 a_4374_1878# a_1612_368# 1.25398f
C27 INP a_6130_536# 0.01207f
C28 VDD a_4186_1878# 1.00663f
C29 VDD a_6130_2884# 2.80636f
C30 VDD a_1612_368# 6.0013f
C31 OUTP a_4374_1878# 0.00862f
C32 w_13700_140# a_6130_2884# 10.5411f
C33 VDD OUTP 2.51781f
C34 INN a_6130_2884# 0.01134f
C35 INN a_1612_368# 0.03165f
C36 a_1080_400# a_4186_430# 0.00683f
C37 OUTP w_13700_140# 10.2107f
C38 OUTP INN 0.05787f
C39 VDD a_19240_420# 0.05238f
C40 a_18400_2942# a_18960_2942# 0.0444f
C41 VDD a_18120_420# 0.11133f
C42 a_18960_2942# a_19520_2942# 0.0444f
C43 w_13700_140# a_19240_420# 0.49422f
C44 INP a_4374_1878# 1.0023f
C45 a_18120_420# w_13700_140# 0.45008f
C46 VDD INP 1.68936f
C47 a_6130_2884# a_4186_1878# 0.0038f
C48 a_4186_1878# a_1612_368# 1.19804f
C49 a_6130_2884# a_1612_368# 0.54222f
C50 VDD a_1424_368# 0.39701f
C51 w_13700_140# a_17840_2942# 0.48998f
C52 OUTP a_6130_2884# 2.85986f
C53 OUTP a_1612_368# 0.48086f
C54 INN INP 0.04056f
C55 a_18400_2942# w_13700_140# 0.43216f
C56 w_13700_140# a_19520_2942# 0.48977f
C57 a_1080_400# a_4374_1878# 0
C58 VDD a_1080_400# 0.19582f
C59 VDD a_18680_420# 0.05372f
C60 a_4186_430# a_6130_536# 0.00418f
C61 VDD a_1424_2016# 0.29593f
C62 w_13700_140# a_18680_420# 0.44898f
C63 a_6130_2884# a_17840_2942# 0.03008f
C64 INP a_4186_1878# 0.02072f
C65 INP a_6130_2884# 1.05279f
C66 INP a_1612_368# 0.27078f
C67 a_1424_368# a_1612_368# 1.48399f
C68 OUTP a_17840_2942# 0.00163f
C69 a_1080_400# a_520_400# 0.03951f
C70 OUTP INP 0.0574f
C71 a_18400_2942# a_6130_2884# 0.03026f
C72 a_19520_2942# a_6130_2884# 0.03412f
C73 OUTP a_18400_2942# 0
C74 a_1080_400# a_4186_1878# 0
C75 a_1080_400# a_1612_368# 1.22986f
C76 a_4374_1878# a_4186_430# 0.0226f
C77 VDD a_4186_430# 1.2083f
C78 a_1424_2016# a_1612_368# 0.37572f
C79 a_4374_1878# a_6130_536# 0.09719f
C80 VDD a_6130_536# 2.93407f
C81 a_240_2922# a_800_2922# 0.03282f
C82 INN a_4186_430# 0.01705f
C83 w_13700_140# a_6130_536# 0
C84 OUTP vsubs 3.08728f
C85 VDD vsubs 81.97099f
C86 a_19520_2942# vsubs 0.09407f
C87 a_19240_420# vsubs 0.09364f
C88 a_18960_2942# vsubs 0.09309f
C89 a_18680_420# vsubs 0.09364f
C90 a_18400_2942# vsubs 0.09309f
C91 a_18120_420# vsubs 0.09364f
C92 a_17840_2942# vsubs 0.09407f
C93 a_6130_536# vsubs 0.06589f
C94 a_4186_430# vsubs 0.05719f
C95 a_6130_2884# vsubs 0.06683f
C96 a_4186_1878# vsubs 0.01223f
C97 a_4374_1878# vsubs 0.16921f
C98 a_1424_368# vsubs 0.61192f
C99 a_800_2922# vsubs 0.4853f
C100 a_520_400# vsubs 0.47481f
C101 a_240_2922# vsubs 0.50703f
C102 a_1424_2016# vsubs 4.20264f
C103 w_13700_140# vsubs 0.10813p
C104 vsubs.t10 vsubs 1.39871f
C105 vsubs.t11 vsubs 3.08728f
C106 VDD.t10 vsubs 2.1725f
C107 VDD.t1 vsubs 6.88537f
C108 VDD.n0 vsubs 1.14957f
C109 VDD.n1 vsubs 1.1565f
C110 VDD.t7 vsubs 0.31042f
C111 VDD.n3 vsubs 0.14767f
C112 VDD.n4 vsubs 1.12958f
C113 VDD.t11 vsubs 0.75645f
C114 VDD.t9 vsubs 3.12817f
C115 VDD.t0 vsubs 3.38141f
C116 VDD.t6 vsubs 2.62409f
C117 VDD.t5 vsubs 0.90444f
C118 VDD.t4 vsubs 0.72355f
C119 VDD.t3 vsubs 0.72355f
C120 VDD.t2 vsubs 0.76579f
C121 VDD.t8 vsubs 0.31122f
.ends

